US05776964
tert-Butyl 2-[4-(2-butyl-4-chloro-5-formyl-imidazol-1-yl-methyl)phenyl]-2-cyclopentyl-acetate
1.6 g (0.053 mol) of sodium hydride (80% strength) are suspended in 50 ml of DMF under protective gas, 10 g (0.053 mol) of 2-butyl-5-formyl-4-chloroimidazole (preparation according to EP 324,377) in 100 ml of DMF are added dropwise at 0° C., the mixture is then stirred at 0° C. for 15 min and 18.9 g (0.053 mol) of tert-butyl 2-(4-bromomethylphenyl-2-cyclopentylacetate in 100 ml of DMF are added dropwise. The mixture is stirred at 0° C. for 2 h, the solvent is evaporated, the residue is taken up in diethyl ether and filtered and, after concentration, chromatographed on silica gel 60 using dichloromethane.

reactant | sodium hydride | 0.053 mol, 1.6 g | [H-].[Na+]
reactant | 2-butyl-5-formyl-4-chloroimidazole | 0.053 mol, 10 g | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | 4-bromomethylphenyl-2-cyclopentylacetate | BrCC1=CC=C(C=C1)C(C(=O)[O-])C1CCCC1
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 2-[4-(2-butyl-4-chloro-5-formyl-imidazol-1-yl-methyl)phenyl]-2-cyclopentyl-acetate | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C1CCCC1 | C26H35ClN2O3
